### PR TITLE
chore: bump mathlib

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
The lemma `eLpNorm_const_smul_le'` cannot be replaced by its upstreamed version since `NNReal` is not a normed ring. Thus it has been renamed `eLpNorm_const_nnreal_smul_le`.

### CODE REVIEW

File: Carleson/Antichain/AntichainTileCount.lean [hunk 1]
```diff
@@ -1132,7 +1132,10 @@ lemma tile_count {𝔄 : Set (𝔓 X)} (h𝔄 : IsAntichain (· ≤ ·) 𝔄) (
       · refine fun p mp ↦ mul_nonneg ?_ (indicator_nonneg (by simp) _)
         exact mul_nonneg (Real.rpow_nonneg zero_le_two _) (indicator_nonneg (by simp) _)
       refine Finset.sum_le_sum fun p mp ↦ ?_
-      simp_rw [enorm_mul, enorm_indicator_eq_indicator_enorm, Pi.one_apply, enorm_one]; gcongr
+      simp_rw [enorm_mul, enorm_indicator_eq_indicator_enorm, Pi.one_apply, enorm_one]
+      gcongr; rotate_left
+      · simp
```
Comment (grunweg) [inline Carleson/Antichain/AntichainTileCount.lean]: Why is this new change required?

File: Carleson/Discrete/ExceptionalSet.lean [hunk 2]
```diff
@@ -928,7 +928,8 @@ lemma third_exception : volume (G₃ (X := X)) ≤ 2 ^ (-4 : ℤ) * volume G :=
         ← ENNReal.mul_rpow_of_ne_top (by simp) (by simp), ENNReal.rpow_natCast]
       congr 2; norm_cast
     _ ≤ 2 ^ (9 * a + 5) * D ^ (1 - κ * Z) * volume G * ∑' k, 2⁻¹ ^ k := by
-      gcongr
+      gcongr _ * ∑' _, ?_
+      refine pow_le_pow_left' ?_ _
```
Comment (grunweg) [inline Carleson/Discrete/ExceptionalSet.lean:932]: Can you comment on this change?

File: Carleson/ToMathlib/ENorm.lean [hunk 3]
```diff
@@ -95,7 +95,7 @@ instance : ContinuousConstSMul ℝ≥0 ℝ≥0∞ where
 open MeasureTheory
 
 -- TODO: put next to MeasureTheory.eLpNorm_const_smul_le (which perhaps can stay)
-theorem eLpNorm_const_smul_le' {α : Type*} {m0 : MeasurableSpace α} {p : ℝ≥0∞}
+theorem eLpNorm_const_nnreal_smul_le {α : Type*} {m0 : MeasurableSpace α} {p : ℝ≥0∞}
```
Comment (grunweg) [inline Carleson/ToMathlib/ENorm.lean:98]: Can you revert this change, please? The proper fix is to generalise the upstream lemmas, by generalising the typeclass hypotheses here. (I'm working on that fix, so this is not hypothetical.)
Renaming this lemma is correct in the short term, but will only lead to more work medium-term, as this needs to be renamed back.

File: Carleson/ToMathlib/ENorm.lean [hunk 4]
```diff
@@ -106,11 +106,11 @@ theorem eLpNorm_const_smul' {α : Type*} {m0 : MeasurableSpace α} {p : ℝ≥0
...
   obtain rfl | hc := eq_or_ne c 0
   · simp
-  refine le_antisymm eLpNorm_const_smul_le' <| ENNReal.mul_le_of_le_div' ?_
-  simpa [ENNReal.div_eq_inv_mul, hc] using eLpNorm_const_smul_le' (c := c⁻¹) (f := c • f)
+  refine le_antisymm eLpNorm_const_nnreal_smul_le <| ENNReal.mul_le_of_le_div' ?_
+  simpa [ENNReal.div_eq_inv_mul, hc] using eLpNorm_const_nnreal_smul_le (c := c⁻¹) (f := c • f)
 
 -- TODO: put next to the unprimed version; perhaps both should stay
-lemma eLpNormEssSup_const_smul_le' {α : Type*} {m0 : MeasurableSpace α} {μ : Measure α}
+lemma eLpNormEssSup_const_nnreal_smul_le {α : Type*} {m0 : MeasurableSpace α} {μ : Measure α}
```
Comment (grunweg) [inline Carleson/ToMathlib/ENorm.lean:113]: Same here

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 5]
```diff
@@ -546,9 +546,7 @@ def finite_spanning_sets_from_lintegrable {g : α → ℝ≥0∞} (hg : AEMeasur
         · rw [one_div]
           apply inv_ne_top.mpr
           simp
-      _ ≤ (∫⁻ x : α, g x ∂μ) / (1 / (n + 1)) := by
-        gcongr
-        exact setLIntegral_le_lintegral _ _
+      _ ≤ (∫⁻ x : α, g x ∂μ) / (1 / (n + 1)) := by gcongr; exact Measure.restrict_le_self
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: Can you revert this change, please? I'm not convinced this is better; this is in `ToMathlib` so style matters.

File: Carleson/ToMathlib/RealInterpolation/Minkowski.lean [hunk 6]
```diff
@@ -720,8 +720,7 @@ lemma estimate_trnc₁ {spf : ScaledPowerFunction} {j : Bool}
   _ ≤ (spf.d ^ (q.toReal - (sel j q₀ q₁).toReal)) *
       ENNReal.ofReal |q.toReal - (sel j q₀ q₁).toReal|⁻¹ *
       (∫⁻ (a : α), ‖f a‖ₑ ^ p.toReal ∂μ) ^ ((sel j p₀ p₁).toReal ⁻¹ * (sel j q₀ q₁).toReal) := by
-    gcongr
-    exact setLIntegral_le_lintegral _ _
+    gcongr; exact Measure.restrict_le_self
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Minkowski.lean]: Same here.

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 7]
```diff
@@ -894,8 +894,7 @@ lemma estimate_eLpNorm_truncCompl {p q : ℝ≥0∞}
         · simp_all
         · finiteness
     _ ≤ (t ^ (q.toReal - p.toReal)) * ∫⁻ x : α, ‖f x‖ₑ ^ p.toReal ∂μ := by
-      gcongr
-      exact setLIntegral_le_lintegral _ _
+      gcongr; exact Measure.restrict_le_self
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean]: And here

File: blueprint/src/chapter/main.tex [hunk 8]
```diff
@@ -9230,7 +9230,7 @@ \subsection{Carleson on the real line}
 \begin{lemma}[real line metric]
 \label{real-line-metric}
 \leanok
-\lean{instProperSpaceReal, locally_compact_of_proper, Real.instCompleteSpace}
+\lean{instProperSpaceReal, Real.instCompleteSpace}
```
Comment (grunweg) [inline blueprint/src/chapter/main.tex]: Why this change?

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: This change is necessary. `gcongr` has become stronger.

File: Carleson/ToMathlib/ENorm.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Carleson/ToMathlib/ENorm.lean:98]: You have not provided the mathlib PR in which you properly generalise this lemma. Since `eLpNorm_const_smul_le'` is now the exact name of a mathlib lemma, I cannot fully and properly revert this change.

File: blueprint/src/chapter/main.tex (hunk 8 above)
Comment (Parcly-Taxel) [reply blueprint/src/chapter/main.tex]: This is now `locallyCompact_of_proper`. It has been fixed.

File: Carleson/ToMathlib/ENorm.lean (hunk 4 above)
Comment (Parcly-Taxel) [reply Carleson/ToMathlib/ENorm.lean:113]: And I cannot revert this either for the exact same reason as for `eLpNorm_const_nnreal_smul_le`.

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 5 above)
Comment (grunweg) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: I'm talking about the reformatting in this change - please revert to two lines. Same below. Thanks!

File: Carleson/ToMathlib/ENorm.lean (hunk 3 above)
Comment (grunweg) [reply Carleson/ToMathlib/ENorm.lean:98]: Ah, I wasn't aware the name is now taken in mathlib. That is a reasonable argument for renaming this for now.

That said, there's no reason for the strong language ("You have not provided the PR" here). Please be mindful of how you express your opinions in text form.

Regarding your actual point: for medium-term changes, there's not always a PR (or not a polished one) yet. You will need to take my word for it, at some point. In this case, there happens to be a partial PR: #27756 is the first step towards this. I have discussed the next steps with Floris, but not implemented them yet. This will happen, but not this week.

File: Carleson/Discrete/ExceptionalSet.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Carleson/Discrete/ExceptionalSet.lean:932]: Plain `gcongr` is now applying the wrong lemma `ENNReal.pow_le_pow_left`, resulting in an impossible-to-prove hypothesis `i✝ ≠ 0` (where `i✝` is the variable of the `tsum`).

File: Carleson/Antichain/AntichainTileCount.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Carleson/Antichain/AntichainTileCount.lean]: Fixed, using `Pi.one_def`.

File: Carleson/ToMathlib/RealInterpolation/Main.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Carleson/ToMathlib/RealInterpolation/Main.lean]: Done.

File: Carleson/Discrete/ExceptionalSet.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Carleson/Discrete/ExceptionalSet.lean:932]: But see leanprover-community/mathlib4#28236 – that PR will make this change unnecessary.
